US07767675B2
Step 2: tert-butyl[4-(4-bromo-2-fluorophenyl)-1H-pyrazol-1-yl]acetate
To a solution of 4-bromo-2-fluoro-1-iodobenzene (380 mg, 1.3 mmol) in THF (10 mL) was added tert-butyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]acetate (390 mg, 1.3 mmol), 2M sodium carbonate in water (2.5 mL) and tetrakis(triphenylphosphine)palladium (40 mg, 0.04 mmol). The solution was degassed with N2, and heated at 80° C. overnight. The mixture was cooled to RT, poured into water, extracted with EtOAc, washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatograph on a silica gel column with EtOAc in Hexanes (30%) to afford the desired compound. LCMS: (M+57)=299.0.

reactant | 4-bromo-2-fluoro-1-iodobenzene | 1.3 mmol, 380 mg | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | tert-butyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]acetate | 1.3 mmol, 390 mg | C(C)(C)(C)OC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H25BN2O4
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl[4-(4-bromo-2-fluorophenyl)-1H-pyrazol-1-yl]acetate | C(C)(C)(C)OC(CN1N=CC(=C1)C1=C(C=C(C=C1)Br)F)=O | C15H16BrFN2O2
